US07041824B2
Stage 1: 2-chloro-N-(4-methoxyphenyl)-1H-purin-6-amine
189 mg of 2,6-dichloropurine, 4 ml of butanol and 135 mg (1.1 mol) of 4-methoxybenzenamine are mixed at room temperature and the medium is heated at a temperature of 75° C. for 5 hours and then left at room temperature overnight.

reactant | 2,6-dichloropurine | 189 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 4-methoxybenzenamine | 1.1 mol, 135 mg | COC1=CC=C(C=C1)N | C7H9NO
solvent | butanol | 4 ml | C(CCC)O | C4H10O
product | 2-chloro-N-(4-methoxyphenyl)-1H-purin-6-amine | ClC=1NC(=C2N=CN=C2N1)NC1=CC=C(C=C1)OC | C12H10ClN5O
